US06027854
The thus obtained partially hydroxycarbonylmethylated polyhydroxystyrene, 90 g, was dissolved in 180 g of N,N-dimethylformamide. With stirring under ice cooling, 49.5 g of triethylamine and then 1.9 g of 1,4-butane diol di(1-chloroethyl) ether were added. Reaction was carried out for 30 minutes under ice cooling, 13.6 g of tert-butyl dicarbonate was added, and reaction was carried out for a further 2 hours at 40° C. After the reaction mixture was allowed to cool down, 23.2 g of 1-chloroethyl ethyl ether was added and reaction was carried out for 2 hours at room temperature. To the reaction mixture were added 500 g of ethyl acetate and 300 g of water, followed by separation. The ethyl acetate layer was washed twice with 300 g of water and then concentrated in vacuum. The residue was dissolved in 300 g of methanol and added dropwise to 20 liters of water whereupon a powdery solid precipitated. The solid was collected by filtration, washed with 20 liters of water, and dried in vacuum at 40° C. for 24 hours. On 1H-NMR analysis, it was identified to be a polymer (Polym. 10) in which 24.0 mol % of the hydrogen atoms of hydroxyl groups in polyhydroxystyrene were replaced by 1-ethoxyethyl groups, 7.0 mol % were replaced by tert-butoxycarbonyl groups, and the carboxyl group moieties which had been introduced in an amount of 2.0 mol % formed ester bonds with alcoholic hydroxyl groups of 1,4-butane diol di(1-hydroxyethyl) ether to provide crosslinking.

reactant | triethylamine | 49.5 g | C(C)N(CC)CC | C6H15N
reactant | 1,4-butane diol di(1-chloroethyl) ether | 1.9 g | ClC(C)OCCCCOC(C)Cl | C8H16Cl2O2
reactant | tert-butyl dicarbonate | 13.6 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
reactant | 1-chloroethyl ethyl ether | 23.2 g | C(C)OC(C)Cl | C4H9ClO
reactant | water | 300 g | O | H2O
solvent | N,N-dimethylformamide | 180 g | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 500 g | C(C)(=O)OCC | C4H8O2
product | 1,4-butane diol di(1-hydroxyethyl) ether | OC(C)OCCCCOC(C)O | C8H18O4
